data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1304,1430,[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20](=[O:21])[NH:22][CH3:23])[n+:24]1[CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[C:19]2([C:20](=[O:21])[NH:22][CH3:23])[C:17](=[O:18])[O:16][C:15]1([C:13]([NH:12][CH3:11])=[O:14])[N:24]2[CH3:25],water,298.15,20.72162745543441,-14.796775705649852
168,185,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][O-:19].[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[O:19][NH:18][C:15]2([C:13]([CH3:12])=[O:14])[C:16]#[N:17],water,298.15,21.03480500377697,-5.870016693622441
1167,1268,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23])[C:24]([CH3:25])=[O:26].[N:1]#[C:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:17]([C:18]#[N:19])([C:20](=[O:21])[O:22][CH3:23])[NH:16][C:15]1([C:13]([NH:12][CH3:11])=[O:14])[C:24]([CH3:25])=[O:26],water,298.15,20.31050332812983,-29.13710166950957
3569,4067,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([N+:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:12]=[N:13]1,water,298.15,28.99904793548004,-4.085368614861312
5193,5892,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:24]([CH3:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:22]([CH3:23])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,31.0824414903398,7.676877936175702
1890,2095,[CH3:17][NH:18][C:19](=[O:20])[C-:21]([N+:22]#[C:23][C:24]([CH3:25])=[O:26])[C:27]([CH3:28])=[O:29].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]([F:10])([F:11])[F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]([F:10])([F:11])[F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]([C:24]([CH3:25])=[O:26])=[N:22][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[C:27]([CH3:28])=[O:29],water,298.15,20.275194669286165,-39.86084684686854
296,321,[CH2-:11][O+:12]=[CH:13][C:14]([CH3:15])=[O:16].[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[CH2:11][O:12][CH:13]2[C:14]([CH3:15])=[O:16],water,298.15,6.464691510961096,-53.407824702262495
4786,5464,[CH3:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[N+:18]([CH3:19])=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:18]([CH3:19])[C:11]1([CH3:10])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,18.3037973157078,-25.39298430799296
1065,1162,[CH3:12][N+:13]([CH-:14][C:15]#[N:16])=[C:17]([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3]1=[C:4]([O:5][CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3]12[C:4]([O:5][CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:14]([C:15]#[N:16])[N:13]([CH3:12])[C:17]2([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,20.36841966178555,-22.677909811005502
3536,4034,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([C:8]([CH3:9])=[O:10])[N+:11]([CH3:12])=[C:13]([CH3:14])[C:15](=[O:16])[O:17][CH3:18]>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([C:8]([CH3:9])=[O:10])[N:11]([CH3:12])[C:13]1([CH3:14])[C:15](=[O:16])[O:17][CH3:18],water,298.15,25.047678536304485,-28.548443436914344
4181,4784,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[N:7]#[C:8][C-:9]([N+:10]#[C:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:9]([C:8]#[N:7])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:10]=[C:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,18.603056717130045,-31.928312425077014
1369,1506,[CH3:15][O:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23]([CH3:24])[n+:25]1[CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:19]1([C:17]([O:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][C:23]2([CH3:24])[N:25]1[CH3:26],water,298.15,27.362919050762105,5.954045757019335
